US05126482
To 0.5 ml of methanol was added 0.17 g of (R)-(-)-2-fluoro-2-(trifluoromethyl)hexanoyl chloride, and this mixture was stirred at room temperature for 30 minutes. The resulting reaction mixture was distilled with Kugelrohr under atomspheric pressure, thereby obtaining 0.15 g of methyl (S)-(-)-2-fluoro-2-(trifluoromethyl)hexanoate having the physical properties as mentioned hereinbefore.

reactant | (R)-(-)-2-fluoro-2-(trifluoromethyl)hexanoyl chloride | 0.17 g | F[C@](C(=O)Cl)(CCCC)C(F)(F)F | C7H9ClF4O
reactant | methanol | 0.5 ml | CO | CH4O
product | methyl (S)-(-)-2-fluoro-2-(trifluoromethyl)hexanoate | 0.15 g | F[C@](C(=O)OC)(CCCC)C(F)(F)F | C8H12F4O2
